8
R0100 1 0 3.95168669036919E+2
R0200 2 0 1
R0304 3 4 1
R0500 5 0 3.95168669036919E+2
R0603 6 3 1
R0700 7 0 3.95168669036919E+2
R0706 7 6 1
L0500 5 0 5.6940349182425
C0100 1 0 1
C0800 8 0 5.6940349182425
C0402 4 2 5.6940349182425
C0500 5 0 1
C0700 7 0 1
G0800 8 0 1 0 1
G0001 0 1 0 8 -1
O0600 6 0 3 2
O0400 4 0 7 3
.AC DEC 10 100 1000