4
M10 0 1 2 0 PMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
M11 0 3 4 0 PMOS L=1E-6 W=1E-6 1E-4 1 0.01 0.3 0.6 0.1E-6
V0001 0 1 1 0 2
V0002 0 2 0 0 10
V0003 0 3 1 0 2
V0004 0 4 0 0 0.5
.AC DEC 10 1000 1E9
